US09085576B2
To a mixture of 3-(2,2-dimethoxyethyl)-5-methoxypicolinamide (6.74 g, 28.1 mmol) in toluene (112 ml) was added 4-methylbenzene sulfonic acid (monohydrate; 0.534 g, 2.81 mmol). The reaction mixture was heated to reflux for 20 h. The reaction mixture was cooled to rt and concentrated in vacuo to a volume of ca. 15 mL. The residue was triturated with heptanes and filtered to afford 3-methoxy-1,7-naphthyridin-8(7H)-one (4.53 g, 25.7 mmol, 92% yield) as a crude, tan solid that was advanced without further purification. MS m/z=177.1 [M+H]+

reactant | 3-(2,2-dimethoxyethyl)-5-methoxypicolinamide | 28.1 mmol, 6.74 g | COC(CC=1C(=NC=C(C1)OC)C(=O)N)OC | C11H16N2O4
reactant | 4-methylbenzene sulfonic acid | 2.81 mmol, 0.534 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 112 ml | C1(=CC=CC=C1)C | C7H8
product | 3-methoxy-1,7-naphthyridin-8(7H)-one | 25.7 mmol, 4.53 g, 92% yield | COC=1C=NC=2C(NC=CC2C1)=O | C9H8N2O2
